US05109017
To a stirred two-phase mixture of 10 g (0.047 mol) of α-(3-methyl-2-thienyl)benzeneethanamine and 7.4 g (0.07 mol) of sodium carbonate in 150 ml of dichloromethane and 200 ml of water at 0° C. was added dropwise 7.6g (0.07 mol) of ethyl chloroformate. The resulting mixture was allowed to warm to ambient temperature and stirred vigorously overnight. The layers were separated, aqueous phase extracted with CH2Cl2 (2×50 ml), organic layers were combined and washed with 1N aqueous hydrochloric acid, brine, and dried. The crude N-carbethoxy-α-(3-methyl-2-thienyl)benzeneethanamine thus obtained was purified by silica gel chromatography to give 13.3 g of a pale yellow oil. A solution of 7.5 g (0.026 mol) of the oil in tetrahydrofuran (50 mL) was added dropwise to a stirred solution of 22 ml (0.075 mol) of a 3.4M solution of sodium bis (2-methoxyethoxy)aluminum hydride in toluene (Red-AL) dissolved in 150 ml of tetrahydrofuran at ambient temperature. The mixture was stirred overnight and quenched by dropwise addition of isopropanol until bubbling had ceased followed by dropwise addition of water until a white precipitate formed. After stirring for 30 minutes longer, the clear yellow solution was decanted and concentrated to dryness giving the crude product as an oil. The oil was dissolved in 50 ml of isopropanol, chilled to 0° C., and made acidic with hydrochlorinated isopropanol. The resulting white solid was collected by filtration and freeze-dried from water to give 1.8 g of white solid product (mp 214°-216° C.).

reactant | α-(3-methyl-2-thienyl)benzeneethanamine | 0.047 mol, 10 g | CC1=C(SC=C1)C(CC1=CC=CC=C1)N | C13H15NS
reactant | sodium carbonate | 0.07 mol, 7.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl chloroformate | 0.07 mol, 7.6g | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | water | 200 ml | O | H2O
product | N-carbethoxy-α-(3-methyl-2-thienyl)benzeneethanamine | C(=O)(OCC)NC(CC1=CC=CC=C1)C=1SC=CC1C | C16H19NO2S
